US08420816B2
4-(piperidin-3-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one
To a solution of tert-butyl 3-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate (10 mg, 0.028 mmol) in dioxane at 0° C. was added 4N HCl in dioxane (0.018 mL, 0.07 mmol) and the reaction mixture was stirred for 1 h to give a solid. The solid was filtered and dried to afford the title compound (5.6 mg) as its HCl salt. 1H NMR (400 MHz, CD3OD) δ 1.82-2.13 (m, 2 H) 2.13-2.31 (m, 2 H) 3.02 (td, J=13.07, 2.91 Hz, 1 H) 3.41 (d, J=1.77 Hz, 1 H) 3.44-3.51 (m, 2 H) 4.68-4.84 (m, 1 H) 5.00-5.19 (m, 2 H) 7.59 (s, 1 H) 7.73 (d, J=6.06 Hz, 1 H) 8.52 (d, J=6.06 Hz, 1 H)). [M+H] found 257.

reactant | tert-butyl 3-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate | 0.028 mmol, 10 mg | O=C1N(CC=2C=3C(=NC=CC13)NC2)C2CN(CCC2)C(=O)OC(C)(C)C | C19H24N4O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.07 mmol, 0.018 mL | O1CCOCC1 | C4H8O2
product | 4-(piperidin-3-yl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-5(1H)-one | 5.6 mg | N1CC(CCC1)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C14H16N4O
